US07612114B2
6-{2-{{3-Fluoro-4-[2-(4-methyl-[1,4]diazepan-1-yl)ethoxy]benzyl}isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) and 4-(2-chloroacetyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (26 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (16 mg) was obtained.

reactant | pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | FC=1C=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=CC1O | C32H36FNO5
reactant | 4-(2-chloroacetyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 26 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(CCl)=O | C12H21ClN2O3
product | 6-{2-{{3-Fluoro-4-[2-(4-methyl-[1,4]diazepan-1-yl)ethoxy]benzyl}isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 16 mg | FC=1C=C(CN(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C(C)C)C=CC1OCCN1CCN(CCC1)C | C35H46FN3O3
